US05216167
Benzyl 2-ethoxy-4-[N-(α-acetoxymethyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate
Prepared analogously to Example 65 from benzyl 2-ethoxy-4-[N-(α-hydroxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate with acetyl chloride.

reactant | benzyl 2-ethoxy-4-[N-(α-hydroxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)CO | C31H36N2O5
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | Benzyl 2-ethoxy-4-[N-(α-acetoxymethyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)COC(C)=O | C33H38N2O6
